US04678781
The starting material may be prepared as follows: A solution of 4-pyrone (730 mg.) in t-butylamine (3.0 ml.) was set aside for 3 days. The excess t-butylamine was evaporated under reduced pressure and the residue was purified by chromatography on Kieselgel 60 (20 g.) eluting with methylene chloride/MeOH 100:0 to 90:10 v/v to give 1-t-butyl-4-pyridone (530 mg.) N.m.r. in solvent A: 1.55(s, 9H); 6.4(d, 2H); 7.6(d, 2H). This material was chlorinated as described in the second part of Example 56 to give 4-chloro-1-t-butylpyridiniumtoluene-p-sulphonate.

reactant | 4-pyrone | 730 mg | O1C=CC(C=C1)=O | C5H4O2
reactant | t-butylamine | 3.0 ml | C(C)(C)(C)N | C4H11N
product | 1-t-butyl-4-pyridone | 530 mg | C(C)(C)(C)N1C=CC(C=C1)=O | C9H13NO
